US08084485B2
(4S,5S)-tert-butyl 4-((S)-2-(acetoxy(1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate (25 mg, 0.036 mmol) was dissolved 20% TFA/CH2Cl2 (6 mL) at 0° C. and the stirred for 2 h. The solvent was removed in vacuo and the residue was purified by preparative HPLC to give (2S,4S,5S)-4-amino-6-(2,2-dimethylhexanamido)-5-hydroxy-2-isopropyl-1-(1-(3-methoxypropyl)-1H-indazol-6-yl)hexyl acetate (12 mg, 52%). 1H NMR (400 MHz, CD3OD): 0.84-1.00 (m, 9H), 1.11-1.32 (m, 10H), 1.58 (m, 3H), 1.95 (m, 1H), 2.14 (m, 6H), 3.12 (m, 2H), 3.45 (m, 1H), 3.83 (m, 1H), 4.50 (m, 2H), 5.91 (m, 1H), 7.12 (m, 1H), 7.53 (m, 1H), 7.75 (t, 3H), 8.04 (m, 1H). MS: 644 (M++1).

reactant | (4S,5S)-tert-butyl 4-((S)-2-(acetoxy(1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.036 mmol, 25 mg | C(C)(=O)OC([C@@H](C[C@@H]1N(C(O[C@H]1CNC(C(CCCC)(C)C)=O)(C)C)C(=O)OC(C)(C)C)C(C)C)C1=CC=C2C=NN(C2=C1)CCCOC | C38H62N4O7
reactant | TFA CH2Cl2 | 6 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (2S,4S,5S)-4-amino-6-(2,2-dimethylhexanamido)-5-hydroxy-2-isopropyl-1-(1-(3-methoxypropyl)-1H-indazol-6-yl)hexyl acetate | 12 mg, 52% | C(C)(=O)OC([C@@H](C[C@@H]([C@H](CNC(C(CCCC)(C)C)=O)O)N)C(C)C)C1=CC=C2C=NN(C2=C1)CCCOC | C30H50N4O5
